US07423150B2
To 3-(tert-butyl)benzenisothiocyanate (1 eq) in methanol was added N-{4-[3-amino-4-(methylamino)phenoxy](2-pyridyl)}[(2-morpholin-4-ylethyl)amino]carboxamide (1 eq) and the resulting mixture was stirred at ambient temperature for 16 h. LC/MS showed formation of corresponding thiourea. To this was added anhydrous ferric chloride (1.5 eq) and stirred for 3 h. The reaction mixture was then concentrated to half its volume and brought to neutral pH with 1N sodium hydroxide. It was then extracted with ethyl acetate and the organic layer was washed with brine and dried with sodium sulfate. The crude material was then purified on preparative chromatography to yield N-[4-({2-[(3 -tert-butylphenyl)amino]-1-methyl-1H-benzimidazol-5-yl}oxy)pyridin-2-yl]-N′-(2-morpholin-4-ylethyl)urea. MS: MH+=544.

reactant | 3-(tert-butyl)benzenisothiocyanate | 1 eq | [N-]=C=S.C(C)(C)(C)C=1C=CC=CC1
reactant | N-{4-[3-amino-4-(methylamino)phenoxy](2-pyridyl)}[(2-morpholin-4-ylethyl)amino]carboxamide | 1 eq | NC=1C=C(OC2=CC(=NC=C2)NC(=O)NCCN2CCOCC2)C=CC1NC | C19H26N6O3
reactant | thiourea | NC(=S)N | CH4N2S
solvent | methanol | CO | CH4O
product | N-[4-({2-[(3 -tert-butylphenyl)amino]-1-methyl-1H-benzimidazol-5-yl}oxy)pyridin-2-yl]-N′-(2-morpholin-4-ylethyl)urea | C(C)(C)(C)C=1C=C(C=CC1)NC1=NC2=C(N1C)C=CC(=C2)OC2=CC(=NC=C2)NC(=O)NCCN2CCOCC2 | C30H37N7O3
